US05994378
A mixture of 2-hydroxybenzaldehyde (2.44 g), diphenylmethyl 2-bromopentanoate (7.26 g), and potassium carbonate (3.45 g) in dimethylsulfoxide (20 ml) was stirred at room temperature for 5 hours. The mixture was diluted with water, neutralized with 1N hydrochloric acid, and was extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over magnesium sulfate, and concentrated to give diphenylmethyl 2-(2-formylphenoxy)-pentanoate (8.04 g).

reactant | 2-hydroxybenzaldehyde | 2.44 g | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | diphenylmethyl 2-bromopentanoate | 7.26 g | BrC(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C18H19BrO2
reactant | potassium carbonate | 3.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | diphenylmethyl 2-(2-formylphenoxy)-pentanoate | 8.04 g | C(=O)C1=C(OC(C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)CCC)C=CC=C1 | C25H24O4
